Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___
 
Chief Complaint:
Chest pain

 
Major Surgical or Invasive Procedure:
___ Cardiac Catheterization

 
History of Present Illness:
___ with past medical history most notable for pre-diabetes
(HgbA1c 5.9% ___ presenting for evaluation of 1 month of
worsening exertional chest pain and pressure. 

Pain worsening over the past month and now with any simple
exertion and now lasting longer. She is currently pain-free. She
did take a full strength aspirin. No shortness of breath. No leg
swelling. Family history of CAD. Sent for further evaluation.

In the ED initial vitals were: 98.6 64 134/69 16 98% RA  
EKG per my read: Sinus rate 58 with PAC, normal axis, normal
intervals, TWI in V1, question of borderline scooping ST
depression I, V4-V6
Labs/studies notable for:  
WBC 5.9 Hgb 9.9 Plt 231
144 | 107 | 16
---------------
4.4 | 26 | 0.6 
INR 1.0 
Troponin T < 0.01

 
Past Medical History:
1. CARDIAC RISK FACTORS : Prediabetes?
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
Breast cancer
___ esophagus
Osteoporosis
Sensorineural hearing loss ? Meinere's disease

 
Social History:
___
Family History:
Family hx of CAD in ___ and grandfather when they were 
in
___ 

 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: 98.3  176/64  62 18 97 Ra   
GENERAL: Well-developed, well-nourished. 
Mood, affect appropriate.
HEENT:  PERRL, EOMI, MMM
NECK: Supple with JVP not elevated 
CARDIAC: PMI located in ___ intercostal space, RRR, normal S1,
S2. No murmurs 
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles,
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. 
EXTREMITIES: No edema, good distal pulses, warm 

DISCHARGE EXAM:
===============
GENERAL: Well-developed, well-nourished. Mood, affect
appropriate.
HEENT:  PERRL, EOMI, MMM
NECK: Supple with JVP not elevated 
CARDIAC: PMI located in ___ intercostal space, RRR, normal S1,
S2. No murmurs 
LUNGS: Resp were unlabored, no accessory muscle use. No 
crackles,
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. 
EXTREMITIES: No edema, good distal pulses, warm  

 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:00PM BLOOD WBC-5.9 RBC-3.28* Hgb-9.9* Hct-31.1* 
MCV-95 MCH-30.2 MCHC-31.8* RDW-12.0 RDWSD-42.1 Plt ___
___ 02:00PM BLOOD ___ PTT-28.0 ___
___ 02:00PM BLOOD Glucose-93 UreaN-16 Creat-0.6 Na-144 
K-4.4 Cl-107 HCO3-26 AnGap-11
___ 02:00PM BLOOD cTropnT-<0.01
___ 02:00PM BLOOD Calcium-9.1 Phos-3.6 Mg-2.4
___ 07:55AM BLOOD Triglyc-91 HDL-75 CHOL/HD-2.7 LDLcalc-110

PERTINENT STUDIES:
==================
Cath Physician ___   ___ 
Dominance: Left
* Left Main Coronary Artery
The LMCA is short but is normal.
* Left Anterior Descending
The LAD has minor kink in proximal segment but no significant 
disease.
* Circumflex
The Circumflex is a large dominant vessel and is normal.
* Right Coronary Artery
The RCA has ___ stenosis, but is a small non-dominant 
vessel.

Portable TTE (Complete) Done ___ at 11:10:39 
IMPRESSION: Very mild regional left ventricular systolic 
dysfunction c/w CAD. Normal right ventricular cavity size and 
systolic function. Mild to moderate eccentric, posteriorly 
directed mitral regurgitation. 

Cardiovascular STRESS   ___ 
INTERPRETATION: This ___ year old woman with PMH of breast 
lumpectomy 
for CA ___ was referred to the lab from the ER following a 
negative 
troponin and normal resting EKG for evaluation of exertional 
chest 
discomfort over the last month that has increased in frequency 
and with 
less activity. The patient exercised for 5.25 minutes of a 
modified 
___ protocol and was stopped for ___ chest discomfort. This 
began 
after 1 minute of exercise and resolved with rest by minute 7 of 

recovery. At peak exercise, there was 1 mm of scooping ST 
segment 
depression in the inferolateral leads. This began 3.5 minutes 
into 
exercise and resolved with rest by minute 9 of recovery. The 
rhythm was 
sinus with occasional isolated apbs and vpbs. Appropriate 
hemodynamic 
response to exercise and recovery. She was given on 325 mg of 
ASA po. 
IMPRESSION: Anginal type symptoms with ischemic EKG changes. 

DISCHARGE LABS:
===============
___ 08:15AM BLOOD WBC-6.3# RBC-3.08* Hgb-9.2* Hct-29.0* 
MCV-94 MCH-29.9 MCHC-31.7* RDW-12.0 RDWSD-41.5 Plt ___
___ 08:15AM BLOOD Plt ___
___ 08:15AM BLOOD Glucose-91 UreaN-11 Creat-0.6 Na-143 
K-4.1 Cl-106 HCO3-26 AnGap-11
___ 07:55AM BLOOD CK-MB-1 cTropnT-<0.01
___ 08:15AM BLOOD Calcium-9.0 Phos-2.9 Mg-2.2
 
Brief Hospital Course:
The patient is a ___ with past medical history most notable for 
pre-diabetes
(HgbA1c 5.9% ___ presenting for evaluation of 1 month of 
worsening exertional chest pain and pressure, found to have 
positive stress test with anginal symptoms and inferolateral ST 
changes, with a cardiac catheterization showing non-obstructive 
coronary artery disease.

# Chest pain
# Unstable angina
The patient presented with progressive exertional chest pain, 
with positive stress test (inferolateral ST depression and 
reproduction of anginal symptoms at peak exercise), overall 
concerning for stable angina. Her troponins were negative x 1. 
The had a cardiac catheterization which showed non-obstructive 
coronary disease with an echo showing mild hypokinesis of the 
basal inferior Left Ventricle, unlikely to be attributable to 
her 40% RCA stenosis given that she is left dominant. She may 
have had left sided disease which spontaneously recanalized or 
some microvascular disease. The patient was started on ASA, 
statin, Beta blocker, as well as Imdur. However, in light of her 
non-obstructive cath, she was sent out with prescriptions for 
her Beta blocker and Imdur, however was instructed not to take 
these medications. Instead, she will have an outpatient stress 
MIBI, and the decision about medical optimization for CAD can be 
made at that time. She also had a negative D-dimer.

# Normycytic anemia: Hgb 9.9, close to baseline of ___, no 
acute signs of bleeding. No further management was pursued in 
hospital, however she can be considered for iron studies and 
further workup as an outpatient.

# Pre-diabetes: Diet controlled, last A1c 5.9% in ___

# Osteoporosis: Not on medications for this

TRANSITIONAL ISSUES:
======================
- NEW medications: Aspirin 81, Atorvastatin 80
- New Prescriptions: Imdur 30, Metoprolol Succinate 25 (Do NOT 
start taking until you are told by your PCP or cardiologist)
- We recommend a outpatient MIBI test done to further 
characterize her noted area of ischemia with exertion
- Patient's A1c 5.2, Total cholesterol 200
- Follow-up with cardiologist Dr. ___

___: Full
CONTACT: HCP: ___ (husband) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Excedrin Extra Strength (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*90 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Daily Disp #*90 
Tablet Refills:*0 
3.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
RX *isosorbide mononitrate 30 mg 1 tablet(s) by mouth Daily Disp 
#*60 Tablet Refills:*0 
4.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable Angina

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___!

WHY WAS I IN THE HOSPITAL?
==========================
- You were admitted because you had worsening chest pain with 
exertion and you had a stress test done that showed your heart 
had lower blood flow during times of exertion

WHAT HAPPENED IN THE HOSPITAL?
==============================
Your heart arteries were examined (cardiac catheterization) 
which showed a blockage of one of the arteries. This blockage 
was 50% which does not require a stent, but may explain your 
symptoms. However, you will also have a repeat test called a 
MIBI of your heart. You were started on medications to help with 
your chest pain.

WHAT SHOULD I DO WHEN I GO HOME?
================================
- The two new medications that you should take every day are 
Aspirin 81mg daily and Atorvastatin 80mg daily
- You will also be discharged with prescriptions for Metoprolol 
25mg daily and Imdur 30mg daily. Please do NOT start taking 
these medications. Keep the prescriptions and follow up with 
Cardiology and PCP as below. They will consider starting these 
medications following the results of your stress test

Please make sure that you follow-up with your primary care 
doctor ___ Dr. ___ cardiology.

Thank you for allowing us to be involved in your care, we wish 
you all the best!

Your ___ Healthcare Team
 
Followup Instructions:
___